US06977263B2
A solution of N-(tert-butoxycarbonyl)-4-fluoro-3-[1-(5-phenylethyl-pyridine-3-carbonyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-benzylamine in ethanol (12 ml) was treated with 10% palladium on carbon (75 mg) and the mixture was stirred at ambient temperature under an atmosphere of hydrogen for 72 hours. The reaction mixture was filtered through a short pad of hyflo and the filtrate was concentrated under vacuum to give N-(tert-butoxycarbonyl-4-fluoro-3-[1-(5-phenylethyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzylamine as colorless oil (85 mg). This material was dissolved in methanol (10 ml) and the solution was cooled to 0° C. and then saturated with hydrogen chloride gas. This mixture was stirred at ambient temperature for 4 hours and then concentrated to dryness under vacuum. The residue was triturated with a mixture of dichloromethane and diethyl ether to give 4-fluoro-3-[1-(5-phenylethyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzylamine di-hydrochloride as a white amorphous solid (50 mg). 1H NMR [(CD3)2SO, 500 MHz]: δ 8.60 (s, 1H), 8.58 (s, 1H), 7.83 (s, 1H), 7.60 (m, 1H), 7.38 (m, 1H), 7.20 (m, 6H), 4.61 (br m, 1H), 4.00 (m, 2H), 3.50 (br m, 1H), 3.20 (br m, 2H), 2.99 (m, 2H), 2.95 (m, 2H), 2.90 (br m, 1H), 1.82 (br m, 1H), 1.65 (br m, 3H). MS(EI): 418(M++H).

reactant | N-(tert-butoxycarbonyl)-4-fluoro-3-[1-(5-phenylethyl-pyridine-3-carbonyl)-1,2,3,6-tetrahydro-pyridin-4-yl]-benzylamine | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)F)C=1CCN(CC1)C(=O)C=1C=NC=C(C1)CCC1=CC=CC=C1 | C31H34FN3O3
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 75 mg | [Pd] | Pd
product | tert-butoxycarbonyl-4-fluoro-3-[1-(5-phenylethyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzylamine | 85 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)F)C1CCN(CC1)C(=O)C=1C=NC=C(C1)CCC1=CC=CC=C1 | C31H36FN3O3
